US05731293
Esculin (1.0 g), benzyl chloride (1.0 g), potassium carbonate (0.7 g), catalytic amounts of 18-crown-6-ether and potassium iodide, and dimethylformamide (40 ml) were placed in an eggplant-shaped flask (100 ml). The mixture was reacted while stirred at 60° C. for 8 hours. The reaction mixture was concentrated under reduced pressure and the residue was poured into ice water. The precipitated crystals were filtered out and recrystallized from methanol to obtain 7-benzyloxy-6-D-glucopyranosyloxycoumarin (VIII-2) (melting point=184° to 186° C., mass spectrum (M+)=430, yield=86.4%).

reactant | Esculin | 1.0 g | C1=C2C(=CC(=C1O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)OC(=O)C=C2 | C15H16O9
reactant | benzyl chloride | 1.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-benzyloxy-6-D-glucopyranosyloxycoumarin | yield=86.4% | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(OC2=C1)=O)OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C22H22O9
